US07550459B2
4-[3-(4-Cyclopropylmethoxypiperidin-1-yl)propyl]-4H-benzo[1.4]oxazin-3-one (AC00262922)
A 4 mL vial was charged with 4-(3-chloropropyl)-4H-benzo[1,4]oxazin-3-one (0.068 g, 0.3 mmol), 4-cyclopropylmethoxypiperidine (0.047 g, 0.3 mmol), NaI (0.075 g, 0.5 mmol), and K2CO3 (0.069 g, 0.5 mmol) in MeCN (1 mL) and shaken at 50° for 20 h. The reaction mixture was quenched with water and the product extracted into EtOAc. The combined organic layers were dried over Na2SO4, filtered, and concentrated. The product was purified by cation exchange column chromatography to give the title compound (0.076 g, 74%). 1H NMR (CDCl3) d 6.96-6.93 (m, 1H), 6.87-6.80 (m, 3H), 4.41 (s, 2H), 3.81 (t, J=7.4 Hz, 2H), 3.16-3.10 (m, 1H), 3.11 (d, J=6.8 Hz, 2H), 2.62-2.57 (m, 2H), 2.22 (t, J=7.0 Hz, 2H), 1.94-1.89 (m, 2H), 1.75-1.64 (m, 4H), 1.48-1.39 (m, 2H), 0.89-0.86 (m, 1H), 0.38-0.33 (m, 2H), 0.04-0.00 (m, 2H); 13C NMR (CDCl3) d 164.2, 145.3, 128.6, 123.7, 122.7, 117.0, 115.0, 74.8, 72.6, 67.6, 55.3, 51.4, 39.5, 31.5, 24.8, 11.0, 3.0.

reactant | 4-(3-chloropropyl)-4H-benzo[1,4]oxazin-3-one | 0.3 mmol, 0.068 g | ClCCCN1C(COC2=C1C=CC=C2)=O | C11H12ClNO2
reactant | 4-cyclopropylmethoxypiperidine | 0.3 mmol, 0.047 g | C1(CC1)COC1CCNCC1 | C9H17NO
reactant | NaI | 0.5 mmol, 0.075 g | [Na+].[I-]
reactant | K2CO3 | 0.5 mmol, 0.069 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 1 mL | CC#N | C2H3N
product | 4-[3-(4-Cyclopropylmethoxypiperidin-1-yl)propyl]-4H-benzo[1.4]oxazin-3-one | 0.076 g, 74% | C1(CC1)COC1CCN(CC1)CCCN1C(COC2=C1C=CC=C2)=O | C20H28N2O3
